US07071182B2
2-[4-(benzyloxy)-3-methoxyphenyl]-N-[1-(2-pyrrolidin-1-ylethyl)-1H-indazol-6-yl]acetamide
According to the procedure for Example 49, 1-(2-pyrrolidin-1-yl-ethyl)-1H-indazol-6-ylamine and (4-benzyloxy-3-methoxy-phenyl)-acetic acid were processed to provide the title compound. MS (DCI/NH3) MS m/z 485 (M+H)+. 1H NMR (500 MHz, DMSO-d6) δ ppm 1.81 (m, 2 H), 1.97 (m, 2 H), 3.02 (m, 2 H), 3.51 (m, 2 H), 3.62 (s, 2 H), 3.69 (q, J=5.82 Hz, 2 H), 3.78 (s, 3 H), 4.66 (t, J=6.24 Hz, 2 H), 5.06 (s, 2 H), 6.84 (m, 1 H), 6.99 (m, 2 H), 7.12 (m, 1 H), 7.32 (m, 1 H), 7.40 (m, 4 H), 7.71 (m, 1 H), 8.08 (s, 1 H), 8.27 (s, 1 H), 9.59 (br s, N H).

reactant | 1-(2-pyrrolidin-1-yl-ethyl)-1H-indazol-6-ylamine | N1(CCCC1)CCN1N=CC2=CC=C(C=C12)N | C13H18N4
reactant | (4-benzyloxy-3-methoxy-phenyl)-acetic acid | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CC(=O)O)OC | C16H16O4
product | 2-[4-(benzyloxy)-3-methoxyphenyl]-N-[1-(2-pyrrolidin-1-ylethyl)-1H-indazol-6-yl]acetamide | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CC(=O)NC1=CC=C2C=NN(C2=C1)CCN1CCCC1)OC | C29H32N4O3
